US09145391B2
To a solution of 5-bromo-2-iodopyridine (18.5 g, 65.1 mmol) in THF (33 mL) at −5° C. was slowly added a solution of i-PrMgCl—LiCl (1.3 M in THF, 50.1 mL, 65.1 mmol) at such a rate that the internal temperature did not exceed −2° C. The reaction mixture was allowed to stir for 1.25 hours at 0° C., and methyl trans-4-acetylcyclohexanecarboxylate (6 g, 32.6 mmol) was added dropwise via syringe. The reaction mixture was stirred for an additional 1 hour at 0° C., then sodium borohydride (0.62 g, 16.3 mmol) was added. The reaction mixture was slowly allowed to warm to room temperature and stirred for 14 hours. The mixture was diluted by addition of saturated aqueous NH4Cl (200 mL) and DCM (250 mL). The layers were separated and the aqueous layer extracted with DCM (250 mL). The combined organic layers were dried with MgSO4, filtered, and concentrated in vacuo. The crude residue was absorbed on silica, gel and purified via silica gel column chromatography (EtOAc/Hexanes) to afford racemic methyl trans-4-[1-(5-bromopyridin-2-yl)-1-hydroxyethyl]cyclohexane carboxylate as a yellow oil. MS ESI calcd. for C15H21BrNO3 [M+H]+ 342 and 344. found 342 and 344. 1H NMR (600 MHz, CDCl3) δ 8.54 (d, J=1.8 Hz, 1H), 7.79 (dd, J=8.4, 2.3 Hz, 1H), 7.19 (d, J=8.4 Hz, 1H), 4.65 (s, 1H), 3.61 (s, 3H), 2.16 (m, 1H), 2.05-1.97 (m, 1H), 1.97-1.90 (m, 1H), 1.90-1.83 (m, 1H), 1.56 (m, 1H), 1.45 (s, 3H), 1.37 (m, 1H), 1.31-1.15 (m, 3H), 1.09 (m, 1H).

reactant | 5-bromo-2-iodopyridine | 65.1 mmol, 18.5 g | BrC=1C=CC(=NC1)I | C5H3BrIN
reactant | i-PrMgCl LiCl | 65.1 mmol, 1.3 M, 50.1 mL | C(C)(C)[Mg]Cl.[Li+].[Cl-]
reactant | methyl trans-4-acetylcyclohexanecarboxylate | 32.6 mmol, 6 g | C(C)(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C10H16O3
reactant | sodium borohydride | 16.3 mmol, 0.62 g | [BH4-].[Na+]
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 33 mL | C1CCOC1 | C4H8O
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | racemic methyl trans-4-[1-(5-bromopyridin-2-yl)-1-hydroxyethyl]cyclohexane carboxylate | BrC=1C=CC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OC | C15H20BrNO3
